US08445118B2
(31) Europium(III) Catecholate (Molecular Weight: 314)
A solution of catechol (3.30 g, 30 mmol) and xylene (45 ml) was dehydrated by distilling 5 mL of the solution. Thereafter, 6.58 g (20 mmol) of europium acetate was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 132° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (catechol-europium complex) was yellow in color. The yield amount was 6.28 g (20 mmol), and the yield percentage was 100%. 0.314 g of catechol-europium complex was dissolved into 10 mL of acetylacetone/toluene to produce a coating liquid.

reactant | catechol | 30 mmol, 3.30 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | europium acetate | 20 mmol, 6.58 g | C(C)(=O)[O-].[Eu+3].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | xylene | 45 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Europium(III) Catecholate | C=1([O-])C([O-])=CC=CC1.[Eu+3].C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.[Eu+3] | InChI=1S/3C6H6O2.2Eu/c3*7-5-3-1-2-4-6(5)8;;/h3*1-4,7-8H;;/q;;;2*+3/p-6
